US04898930
Ethyl benzyloxycarbonylalanyl-glycyl-1-amino-1-cyclopentanecarboxylate
To a dimethylformamide (25 ml) solution of ethyl 1-amino-1-cyclopentanecarboxylate liberated from its hydrochloride (1.0 g, 5 mmoles) with N-ethylpiperidine (0.7 ml) there was portionwise added benzyloxycarbonylalanyl-glycine p-nitrophenyl ester (2.1 g, 5 mmoles). After 3 hours of stirring and 12 hours of standing at room temperature the solution was evaporated, the residue was taken into ethyl acetate and extracted successively with 1% ammonia and water, dried over anhydrous sodium sulfate and evaporated. The residue was crystallized from ethyl acetate-petroleum ether to give 1.4 g (67%) of the title product, m.p. 119° to 121° C. An analytical sample was crystallized similarly, m.p. 137° to 139° L C. [α]D20 -3.4°.

reactant | ethyl 1-amino-1-cyclopentanecarboxylate | NC1(CCCC1)C(=O)OCC | C8H15NO2
reactant | hydrochloride | 5 mmoles, 1.0 g | Cl | ClH
reactant | N-ethylpiperidine | 0.7 ml | C(C)N1CCCCC1 | C7H15N
reactant | benzyloxycarbonylalanyl-glycine p-nitrophenyl ester | 5 mmoles, 2.1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C19H19N3O7
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Ethyl benzyloxycarbonylalanyl-glycyl-1-amino-1-cyclopentanecarboxylate | 1.4 g, 67% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NCC(=O)C1C(CCC1)(C(=O)OCC)N | C21H29N3O6
